US08541380B2
To a solution of the (2S,3R,4R,5S,6S)-3,4,5-tris(benzyloxy)-2-(benzyloxymethyl)-6-(3-(bromomethyl)naphthalen-1-yl)-tetrahydro-2H-pyran in EtOH (80 mL) and water (40 mL) was added potassium cyanide (4.24 g, 65.1 mmol). The reaction mixture was refluxed overnight. After cooling to room temperature, the mixture was diluted with water and extracted with EtOAc. The organic layer was washed with brine, dried over anhydrous MgSO4, filtered and evaporated in vacuo. The crude residue was purified by column chromatography to yield 2-(4-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxy-methyl)-tetrahydro-2H-pyran-2-yl)naphthalen-2-yl)acetonitrile (10.9 g, 46%) as a white solid.

reactant | (2S,3R,4R,5S,6S)-3,4,5-tris(benzyloxy)-2-(benzyloxymethyl)-6-(3-(bromomethyl)naphthalen-1-yl)-tetrahydro-2H-pyran | C(C1=CC=CC=C1)O[C@@H]1[C@@H](O[C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C1=CC(=CC2=CC=CC=C12)CBr)COCC1=CC=CC=C1 | C45H43BrO5
reactant | potassium cyanide | 65.1 mmol, 4.24 g | [C-]#N.[K+]
solvent | EtOH | 80 mL | CCO | C2H6O
solvent | water | 40 mL | O | H2O
product | 2-(4-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxy-methyl)-tetrahydro-2H-pyran-2-yl)naphthalen-2-yl)acetonitrile | 10.9 g, 46% | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CC(=CC2=CC=CC=C12)CC#N | C46H43NO5
